US03994875
A mixture of 1 g of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 1.2 g of 2-chloromethyl-4-methoxymandelic acid chloride in 200 ml of ethyl acetate is refluxed for 50 minutes after which the solvent is removed under high vacuum. The resulting product is chromatographed on silica gel using benzene-acetone as the eluant. The product obtained is triturated with ether to give 3-[(acetyloxy)methyl]-7-[[2-[2-(chloromethyl)-4-methoxyphenyl]-2-hydroxyacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid. M.P. 140°-142° C (dec.).

reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | 2-chloromethyl-4-methoxymandelic acid chloride | 1.2 g | ClCC1=C(C(C(=O)Cl)O)C=CC(=C1)OC | C10H10Cl2O3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(acetyloxy)methyl]-7-[[2-[2-(chloromethyl)-4-methoxyphenyl]-2-hydroxyacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(O)C1=C(C=C(C=C1)OC)CCl)=O)=O)C(=O)O | C20H21ClN2O8S
